US07476663B2
(a) methyl 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylate
Prepared analogously to Example 37a from methyl 1-amino-cyclopentane-1-carboxylate hydrochloride and 5-bromo-thiophene-2-carboxylic acid with thionyl chloride in dichloromethane with TEA.

reactant | methyl 1-amino-cyclopentane-1-carboxylate hydrochloride | Cl.NC1(CCCC1)C(=O)OC
reactant | 5-bromo-thiophene-2-carboxylic acid | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 1-[(5-bromo-thiophene-2-carbonyl)-amino]-cyclopentane-1-carboxylate | BrC1=CC=C(S1)C(=O)NC1(CCCC1)C(=O)OC | C12H14BrNO3S
